US07816391B2
Lithium hydroxide monohydrate (27.5 mg, 0.65 mmol) was added to a suspension of 4-[4-(5-Methanesulfonyl-adamantan-2-ylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]-benzoic acid methyl ester (Intermediate#105) (116 mg, 0.22 mmol) in methanol (4 mL)/water (2 mL) at ambient temperature. The resulting suspension was stirred at ambient temperature for 18 hours. The bulk of the organic solvent was removed in vacuo and the resulting solution was diluted with water (10 mL) and washed with ether (10 mL). The aqueous layer was acidified to ˜pH4 with 2M HCl then extracted with EtOAc (3×25 ml). The EtOAc layers were combined, washed sequentially with water (5 mL) and saturated brine (10 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford 4-[4-(5-Methanesulfonyl-adamantan-2-ylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]-benzoic acid (113 mg, 100%) as a white solid.

reactant | Lithium hydroxide monohydrate | 0.65 mmol, 27.5 mg | O.[OH-].[Li+]
reactant | 4-[4-(5-Methanesulfonyl-adamantan-2-ylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]-benzoic acid methyl ester | 0.22 mmol, 116 mg | COC(C1=CC=C(C=C1)N1N=CC(=C1SCCC)C(NC1C2CC3CC(CC1C3)(C2)S(=O)(=O)C)=O)=O | C26H33N3O5S2
reactant | water | 2 mL | O | H2O
solvent | methanol | 4 mL | CO | CH4O
product | 4-[4-(5-Methanesulfonyl-adamantan-2-ylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]-benzoic acid | 113 mg, 100% | CS(=O)(=O)C12CC3C(C(CC(C1)C3)C2)NC(=O)C=2C=NN(C2SCCC)C2=CC=C(C(=O)O)C=C2 | C25H31N3O5S2
